US06399627B1
To a solution of ethyl (Z)-3-(2-furyl)-3-{[(trifluoromethyl)sulfonyl]-oxy}-2-propenoate (500 mg, 1.59 mmol) in 7 ml anhydrous dioxane was added potassium phosphate (506 mg, 2.4 mmol), 3-cyanophenyl boronic acid (234 mg, 1.59 mmol), and tetrakis (triphenylphosphine)palladium(0) (46 mg, 0.04 mmol). Reaction mixture was heated to reflux and stirred overnight. Mixture was filtered through a pad of Celite, diluted with 50 ml ethyl acetate, washed with 2×50 ml water, 2×50 ml saturated brine solution, dried over magnesium sulfate, filtered and concentrated in vacuo. The crude residue was chromatographed on silica gel using a gradient from 5% EtOAc in hexane to 10% EtOAc in hexane as the eluent to give ethyl (E) 3-(3-cyanophenyl)-3-(2-furyl)-2-propenoate (100 mg, 24%) as a clear yellow oil after drying. H1NMR (CDCl3) 1.1-1.14 (t, 3H); 4.016-4.035 (m, 2H); 5.293 (s, H); 7.45-7.549 (m, 3H); 7.669 (m, H). ES-MS (M+H+): 268.05

reactant | ethyl (Z)-3-(2-furyl)-3-{[(trifluoromethyl)sulfonyl]-oxy}-2-propenoate | 1.59 mmol, 500 mg | O1C(=CC=C1)/C(=C/C(=O)OCC)/OS(=O)(=O)C(F)(F)F | C10H9F3O6S
reactant | potassium phosphate | 2.4 mmol, 506 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 3-cyanophenyl boronic acid | 1.59 mmol, 234 mg | C(#N)C=1C=C(C=CC1)B(O)O | C7H6BNO2
solvent | dioxane | 7 ml | O1CCOCC1 | C4H8O2
product | ethyl (E) 3-(3-cyanophenyl)-3-(2-furyl)-2-propenoate | 100 mg, 24% | C(#N)C=1C=C(C=CC1)\C(=C/C(=O)OCC)\C=1OC=CC1 | C16H13NO3
